US06605618B2
4-[(2S)-2-Hydroxy-3-(2-{4-[1-(4-phenyl-thiazol-2-yl)-piperidin-4-ylamino]-phenyl]-ethylamino)-propoxy}-phenol
(2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-[(4-{[1-(4-phenyl-1,3-thiazol-2-yl)-4-piperidinyl]amino}phenethyl)amino]-2-propanol (0.25 g, 0.319 mmol) was reacted following general Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound as the hydrochloride salt (0.12 g, 0.22 mmol).

reactant | (2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-[(4-{[1-(4-phenyl-1,3-thiazol-2-yl)-4-piperidinyl]amino}phenethyl)amino]-2-propanol | 0.319 mmol, 0.25 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)NC2CCN(CC2)C=2SC=C(N2)C2=CC=CC=C2)O)C=C1 | C47H54N4O3SSi
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[(2S)-2-Hydroxy-3-(2-{4-[1-(4-phenyl-thiazol-2-yl)-piperidin-4-ylamino]-phenyl]-ethylamino)-propoxy}-phenol | O[C@H](COC1=CC=C(C=C1)O)CNCCC1=CC=C(C=C1)NC1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C31H36N4O3S
